US07214686B2
Ethyl 2-(4-oxanyl)acetate
To a solution of ethyl 2-(4-oxanylidene)acetate (22.0 g, 139 mmol) in ethanol (50 mL) was added 10% Pd/C (2.2 g) and the mixture subjected to hydrogenation overnight on a Parr apparatus (50 psi). The catalyst was removed by filtration through Celite, which was washed with ethanol (25 mL). Removal of solvent from the combined filtrates by rotary evaporation gave the desired product as a colorless oil (22.0 g, 98.5%).

reactant | ethyl 2-(4-oxanylidene)acetate | 139 mmol, 22.0 g | O1CCC(CC1)=CC(=O)OCC | C9H14O3
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | 2.2 g | [Pd] | Pd
product | Ethyl 2-(4-oxanyl)acetate | 22.0 g, 98.5% | O1CCC(CC1)CC(=O)OCC | C9H16O3
